US05998433
b) Synthesis of N,N-dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine
To a solution of 0.179 g (0.518 mmol) of 6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine in 20 ml of acetic acid, 56 mg (0.62 mmol) of 50% aqueous dimethylamine and 50 mg (0.62 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine | 0.518 mmol, 0.179 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CCC3=C(CC2)C=CO3)C=C1 | C22H19NO3
reactant | dimethylamine | 0.62 mmol, 56 mg | CNC | C2H7N
reactant | formaldehyde | 0.62 mmol, 50 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[6-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CCN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C25H26N2O3
